US06174901B1
Step B: 6-(4-Fluorophenyl)-4,5-dihydro-5-(4-pyridyl)-2H-pyridazin-3-one:
A solution of ethyl 3-(4-fluorobenzoyl)-3-(4-pyridyl)-propionate (1.0 g, 3.32 mmol) and hydrazine monohydrate (1 ml, 20.6 mmol) in ethanol (1 ml) was refluxed for 2.5 h. The solvent and hydrazine monohydrate were evaporated. The remainder was taken up in n-butanol and the mixture was heated at reflux for 45 min. Evaporation was followed by column chromatography on silica gel (3-7.5% methanol/dichloromethane) to provide the title compound. MS (m/z): 270.2 (M+H)+; C15H12FN3O requir. 269.3.

reactant | ethyl 3-(4-fluorobenzoyl)-3-(4-pyridyl)-propionate | 3.32 mmol, 1.0 g | FC1=CC=C(C(=O)C(CC(=O)OCC)C2=CC=NC=C2)C=C1 | C17H16FNO3
reactant | hydrazine monohydrate | 20.6 mmol, 1 ml | O.NN
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-(4-Fluorophenyl)-4,5-dihydro-5-(4-pyridyl)-2H-pyridazin-3-one | FC1=CC=C(C=C1)C=1C(CC(NN1)=O)C1=CC=NC=C1 | C15H12FN3O
